US08871753B2
Step A: tert-Butyl (3-{[(3-aminophenyl)acetyl]amino}phenyl)carbamate
To a solution of tert-butyl (3-{[(3-nitrophenyl)acetyl]amino}phenyl)carbamate (0.35 g, 0.94 mmol) in methanol (100 mL) was added 10% palladium on carbon (1:10, Palladium:carbon black, 0.15 g, 0.13 mmol). The reaction was shaken under 60 psi hydrogen gas overnight. The crude mixture was filtered through celite and concentrated under vacuum to give the desired product (0.30 g, 94%). LCMS for C19H23N3O3 (M-tBu+H)+: m/z=286.0.

reactant | tert-butyl (3-{[(3-nitrophenyl)acetyl]amino}phenyl)carbamate | 0.94 mmol, 0.35 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C19H21N3O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on carbon | 0.13 mmol, 0.15 g | [Pd] | Pd
product | tert-Butyl (3-{[(3-aminophenyl)acetyl]amino}phenyl)carbamate | 0.30 g, 94% | NC=1C=C(C=CC1)CC(=O)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C19H23N3O3
